US07074809B2
4-methyl-piperidine-2-carboxylic acid ethyl ester hydrochloride (2.0 g, 9.6 mmol) was mixed with sodium hydroxide (1.155 g, 28.9 mmol) in water (10 mL) and acetone (5 mL) at 60° C. for 30 minutes. The reaction mixture was mixed with, di-tert-butyl dicarbonate (2.7 g, 12.5) and stirred overnight. The reaction mixture was brought to pH2˜3 using hydrochloric acid (1 N aqueous) and then extracted with dichloromethane. The organic phase was separated, sequentially washed with water and brine, dried (sodium sulfate), filtered and concentrated in vacuo. The isolated solid was triturated with hexanes to yield 1.89 g (80.7%) of 4-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester as white solid.

reactant | 4-methyl-piperidine-2-carboxylic acid ethyl ester hydrochloride | 9.6 mmol, 2.0 g | Cl.C(C)OC(=O)C1NCCC(C1)C
reactant | sodium hydroxide | 28.9 mmol, 1.155 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | 1.89 g, 80.7% | C(C)(C)(C)OC(=O)N1C(CC(CC1)C)C(=O)O | C12H21NO4
